### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace): multiplicity of LinearMap.IsSymmetric.eigenvalues 

### PR DESCRIPTION
**Pull request by nielsvoss**
If `T` is a symmetric linear map and `μ : 𝕜`, then `μ` appears somewhere in the list `LinearMap.IsSymmetric.eigenvalues` a number of times equal to the dimension of the eigenspace of `μ`.

Discussion for this PR and the related PR #34362 can be found here: https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/LinearMap.2EIsSymmetric.2Eeigenvalues.20has.20all.20the.20eigenvalues/with/571092190

---

This is stronger than #34362, but I think that it is best that those proofs don't depend on the theorems in this PR because that would only lead to minimal simplification and make it much more difficult to edit the theorem statements of this PR. So right now, these PRs are independent of each other.

As a git note, I originally branched this off of #34362, but later made a commit deleting the contents of #34362 so that the PRs would become independent. This is why there are some commits with suggestions from the other PR.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 1]
```diff
@@ -1083,6 +1085,30 @@ theorem DirectSum.IsInternal.subordinateOrthonormalBasis_subordinate (a : Fin n)
...
+    (hV' : OrthogonalFamily 𝕜 (fun i => V i) fun i => (V i).subtypeₗᵢ) (i : ι) :
+    {a : Fin n // hV.subordinateOrthonormalBasisIndex hn a hV' = i} ≃ Fin (finrank 𝕜 (V i)) where
+  toFun a := Fin.cast (by rw [←subordinateOrthonormalBasisIndex_def, a.property])
+    ((hV.sigmaOrthonormalBasisIndexEquiv hn hV').symm a).snd
+  invFun b := ⟨hV.sigmaOrthonormalBasisIndexEquiv hn hV' ⟨i, b⟩,
+    by simp [subordinateOrthonormalBasisIndex_def]⟩
+  left_inv := by
+    intro ⟨a, ha⟩
+    rw [subordinateOrthonormalBasisIndex_def] at ha
+    rw! [←ha]
```
Comment (vlad902) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean]: You can use `subst ha` here to avoid the additional import, also this entire left_inv block could be replaced by `grind [subordinateOrthonormalBasisIndex_def, Fin.cast_eq_self]` (found using `try?`)

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 2]
```diff
@@ -1083,6 +1085,30 @@ theorem DirectSum.IsInternal.subordinateOrthonormalBasis_subordinate (a : Fin n)
...
+    simp
+  right_inv b := by
+    ext
+    dsimp only [Fin.val_cast]
+    rw [Equiv.symm_apply_apply]
+
+theorem DirectSum.IsInternal.card_filter_subordinateOrthonormalBasisIndex_eq
+    (hV' : OrthogonalFamily 𝕜 (fun i => V i) fun i => (V i).subtypeₗᵢ) (i : ι) :
+    Finset.card {a : Fin n | hV.subordinateOrthonormalBasisIndex hn a hV' = i}
```
Comment (vlad902) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean]: You can elide the ` : Fin n` and this statement will fit on one line.

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 3]
```diff
@@ -239,6 +251,13 @@ noncomputable irreducible_def eigenvalues (hT : T.IsSymmetric) (hn : Module.finr
     Fin n → ℝ :=
   (hT.unsortedEigenvalues hn) ∘ Tuple.sort (hT.unsortedEigenvalues hn) ∘ @Fin.revPerm n
 
+theorem card_filter_eigenvalues_eq (hT : T.IsSymmetric) (hn : Module.finrank 𝕜 E = n) {μ : 𝕜}
+    (hμ : HasEigenvalue T μ) : Finset.card {i : Fin n | hT.eigenvalues hn i = μ}
+      = Module.finrank 𝕜 (Module.End.eigenspace T μ) := by
+  rw [←hT.card_filter_unsortedEigenvalues_eq hn hμ, eigenvalues_def]
```
Comment (vlad902) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean]: \leftarrow again

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 4]
```diff
@@ -205,6 +205,18 @@ private noncomputable def unsortedEigenvalues (hT : T.IsSymmetric) (hn : Module.
   @RCLike.re 𝕜 _ <| (hT.direct_sum_isInternal.subordinateOrthonormalBasisIndex hn i
     hT.orthogonalFamily_eigenspaces').val
 
+private theorem card_filter_unsortedEigenvalues_eq (hT : T.IsSymmetric)
+    (hn : Module.finrank 𝕜 E = n) {μ : 𝕜} (hμ : HasEigenvalue T μ) :
+    Finset.card {i : Fin n | hT.unsortedEigenvalues hn i = μ}
+      = Module.finrank 𝕜 (Module.End.eigenspace T μ) := by
```
Comment (vlad902) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean]:
```suggestion
    Finset.card {i | hT.unsortedEigenvalues hn i = μ} = Module.finrank 𝕜 (eigenspace T μ) := by
```

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 5]
```diff
@@ -239,6 +251,13 @@ noncomputable irreducible_def eigenvalues (hT : T.IsSymmetric) (hn : Module.finr
     Fin n → ℝ :=
   (hT.unsortedEigenvalues hn) ∘ Tuple.sort (hT.unsortedEigenvalues hn) ∘ @Fin.revPerm n
 
+theorem card_filter_eigenvalues_eq (hT : T.IsSymmetric) (hn : Module.finrank 𝕜 E = n) {μ : 𝕜}
+    (hμ : HasEigenvalue T μ) : Finset.card {i : Fin n | hT.eigenvalues hn i = μ}
+      = Module.finrank 𝕜 (Module.End.eigenspace T μ) := by
```
Comment (vlad902) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean]: or you have enough space now to include `Fin n` if you prefer, though I personally find this easier to read.
```suggestion
    (hμ : HasEigenvalue T μ) :
    Finset.card {i | hT.eigenvalues hn i = μ} = Module.finrank 𝕜 (eigenspace T μ) := by
```

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 6]
```diff
@@ -1083,6 +1085,30 @@ theorem DirectSum.IsInternal.subordinateOrthonormalBasis_subordinate (a : Fin n)
     hV.collectedOrthonormalBasis_mem hV' (fun i => stdOrthonormalBasis 𝕜 (V i))
       ((hV.sigmaOrthonormalBasisIndexEquiv hn hV').symm a)
 
+private def DirectSum.IsInternal.subordinateOrthonormalBasisIndexFiberEquiv
+    (hV' : OrthogonalFamily 𝕜 (fun i => V i) fun i => (V i).subtypeₗᵢ) (i : ι) :
+    {a : Fin n // hV.subordinateOrthonormalBasisIndex hn a hV' = i} ≃ Fin (finrank 𝕜 (V i)) where
+  toFun a := Fin.cast (by rw [←subordinateOrthonormalBasisIndex_def, a.property])
```
Comment (vlad902) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean]: mathlib style has a space between \leftarrow and the hypothesis name
```suggestion
  toFun a := Fin.cast (by rw [← subordinateOrthonormalBasisIndex_def, a.property])
```

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 7]
```diff
@@ -1083,6 +1085,30 @@ theorem DirectSum.IsInternal.subordinateOrthonormalBasis_subordinate (a : Fin n)
...
+    ((hV.sigmaOrthonormalBasisIndexEquiv hn hV').symm a).snd
+  invFun b := ⟨hV.sigmaOrthonormalBasisIndexEquiv hn hV' ⟨i, b⟩,
+    by simp [subordinateOrthonormalBasisIndex_def]⟩
+  left_inv := by
+    intro ⟨a, ha⟩
+    rw [subordinateOrthonormalBasisIndex_def] at ha
+    rw! [←ha]
+    simp
+  right_inv b := by
```
Comment (vlad902) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean]: Could be replaced `by grind`

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean (hunk 1 above)
Comment (nielsvoss) [reply Mathlib/Analysis/InnerProductSpace/PiL2.lean]: Thanks for the advice, that simplifies things a lot.

**Review by j-loreaux — COMMENTED** [review]
Thanks for adding this missing API!

bors merge
